US07217723B2
b) 2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanol
2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanone (56.9 g) was dissolved in methanol (550 mL), and sodium borohydride was gradually added on an ice bath. After stirring at room temperature for 1 hour, the residue after evaporating methanol at reduced pressure was purified by NH silica gel column chromatography (hexane/ethyl acetate), and a yellow oily substance (54.6 g) was obtained.

reactant | 2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanone | 56.9 g | C(C1=CC=CC=C1)N(CC(=O)C1=CC=C(C=C1)F)C | C16H16FNO
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | 550 mL | CO | CH4O
product | 2-(Benzyl-methyl-amino)-1-(4-fluorophenyl)-ethanol | C(C1=CC=CC=C1)N(CC(O)C1=CC=C(C=C1)F)C | C16H18FNO
